US06583135B2
Preparation of 7,10-Dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride
TFA (0.65 mL, 8.4 mmol) was added to a solution of tert-butyl 7,10-dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.20 g, 0.42 mmol) in CH2Cl2 (6 mL). After 5 h, the reaction was made basic with 10% aqueous NaOH and extracted with CH2Cl2 (3×15 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to give a crude solid. After the hydrochloride salt was prepared, it was further purified by recrystallization from MeOH/EtOAc to give 51 mg (30%) of a white solid: mp 261.0-263.0° C.; 1H NMR (300 MHz, DMSO) δ 9.24 (br s, 2H), 7.26 (m, 2H), 7.16 (d, J=8.3 Hz, 1H), 7.06 (d, J=8.3 Hz, 1H), 6.90 (m, 3H), 4.97 (t, J=4.9 Hz, 2H), 4.26 (m, 2H), 3.53 (m, 2H); 13C NMR (300 MHz, DMSO) δ 157.8, 141.3, 131.1, 129.4, 125.5, 123.4, 123.2, 121.3, 120.8, 114.4, 114.1, 111.4, 67.7, 44.8, 43.2, 43.1, 22.2, 20.9; IR (diffuse reflectance) 2965, 2952, 2826, 2794, 2741, 2676, 2650, 2443, 1496, 1467, 1241, 1234, 1170, 804, 755 cm−1; MS (EI) m/z 374 (M+), 339, 334, 332, 84, 78, 77, 65, 63, 61; Anal. Calcd for C20H20Cl2N2O.HCl: C, 58.34; H, 5.14; N, 6.80; found: C, 58.25; H, 5.23; N, 6.80.

reactant | TFA | 8.4 mmol, 0.65 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 7,10-dichloro-6-(2-phenoxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.42 mmol, 0.20 g | ClC1=CC=C(C=2C3=C(N(C12)CCOC1=CC=CC=C1)CCN(CC3)C(=O)OC(C)(C)C)Cl | C25H28Cl2N2O3
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 7,10-Dichloro-6-(2-phenoxyethyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole Hydrochloride | 51 mg, 30% | Cl.ClC1=CC=C(C=2C3=C(N(C12)CCOC1=CC=CC=C1)CCNCC3)Cl | InChI=1S/C20H20Cl2N2O.ClH/c21-16-6-7-17(22)20-19(16)15-8-10-23-11-9-18(15)24(20)12-13-25-14-4-2-1-3-5-14;/h1-7,23H,8-13H2;1H
